Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
venlafaxine / dncb
 
Attending: ___.
 
Chief Complaint:
metastatic colon cancer
 
Major Surgical or Invasive Procedure:
Radiofrequency Ablation of Hepatic Mets

 
History of Present Illness:
Ms. ___ is a ___ year old female with dementia, CVA,  
and metastatic colon cancer who presents following 
radiofrequency ablation of liver lesions. Pt was initially 
diagnosed with colon cancer detected on colonscopy for workup of 
iron deficiency anemia on ___. She underwent right 
hemicolectomy with Dr. ___ on  
___. CT scan ___ was negative for metastatic 
disease.  
Her CEA rose and a followup CT scan showed two liver lesions  
suggestive of metastasis which was confirmed on biopsy. The pt's 
son wanted RFA pursued but declined to undergo any further 
adjuvant chemotherapy.  
Pt underwent radiofrequency ablation with ___ today without 
complications. There was trace blood on the post ablation CT. 
She was admitted for further Hb/HCT monitoring and symptom 
control.  
 
On the floor, patient reports some RUQ discomfort and throat 
pain.  

 
Past Medical History:
Recent diagnosis of colon cancer, no known ___
Dementia
Iron deficiency anemia
Glaucoma
Hyperlipidemia
Irritable bowel syndrome
Anxiety
Osteoporosis
Osteoarthritis
Diverticulosis
Lactose intolerance
S/p hysterectomy/oophorectomy
H/o corneal transplant
Pseudophakia
Weight loss
Dysthymic disorder
Pancreatic cysts
Dermatofibroma
Pulmonary nodules, multiple
Knee joint pain

PSH: corneal transplant, TAH-oophrectomy

 
Social History:
___
Family History:
Sister with ovarian cancer, brother lung cancer, brother with 
___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 97.6, 148/43, 59, 16, 96% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, slight tenderness in RUQ, non-distended, bowel 
sounds present, no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait deferred 


DISCHARGE PHYSICAL EXAM:
98.3  122/45-148/43  59-60  16  96% RA
GEN: NAD, A&Ox2, pleasant 
HEENT: conjunctiva pink, sclera anicteric
NECK: supple, FROM
CV: RRR, no m/r/g
LUNG: CTAP bl
ABD: soft, nontender, nondistended
EXT: WWP
NEURO: grossly intact

 
Pertinent Results:
ADMISSION LABS
___ 12:20AM BLOOD Hgb-11.9* Hct-37.0
___ 08:19AM BLOOD Hgb-11.6* Hct-34.9*
 
Brief Hospital Course:
___ with h/o CVA, dementia and colon adenocarcinoma s/p right 
hemicolectomy in ___ with new metastatic lesions in the liver 
s/p radiofrequency ablation today admitted for post procedure 
observation.

ACTIVE ISSUES:
#Observation s/p Radiofrequency Ablation: pt with given 
comorbidities and limited functional status is admitted to for 
monitoring after the procedure.
-monitor for pain, avoid narcotics 
-tylenol ___ PO q6hr pain
-monitor vital signs
-frequent reorientation
-minimize tetherings 
-___ Delirium precautions
-family at the bedside

CHRONIC ISSUES:
#Colon Cancer: defer to out patient management

#Urinary Retention: chronic foley in place.

#Dementia: continue home donepezil 10 mg PO qday

#Hyperlipidemia: continue home atorvastation 80mg PO qday
 
#Depression: continue home citalopram 20mg PO qday

#Corneal graft: continue prednisoLONE acetate 1 % 
-1 drop qday right eye
-1 drop TID left eye
 
TRANSITIONAL ISSUES:
#Follow up scan: ___ will order a follow up scan for 
approximately 1 month from now. Based off those results, ___ will 
call the pt to tell her those results and any delinate any 
further plans. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO DAILY 
2. Citalopram 20 mg PO DAILY 
3. Donepezil 10 mg PO HS 
4. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES BID 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
RX *acetaminophen 650 mg 1 tablet(s) by mouth q6 Disp #*120 
Tablet Refills:*0
2. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE DAILY 
3. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE TID 
4. Atorvastatin 80 mg PO DAILY 
5. Citalopram 20 mg PO DAILY 
6. Donepezil 10 mg PO HS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Metastatic Colon Cancer s/p radiofrequency ablation of hepatic 
metastases. 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___:

You were admitted to ___ for 
observation overnight after your radiofrequency ablation earlier 
that same day. Your vital signs and laboratory values were 
monitored and were all normal. Your pain was controlled with 
tylenol. You were discharged home with tylenol and instructions 
to follow up with your outpatient providers. 

Thank you for choosing ___. All 
the best for the future!

Sincerely, 
___ Treatment Team
 
Followup Instructions:
___